US06432957B1
Synthesis of 1-(2-nitrobenzenesulfonyl)-3-oxo-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine
N-(2-Hydroxyethyl)-N-[[2-(3,4,5-trimethoxy-phenyl)pyridin-4-yl]methyl]-Nα-(2-nitrobenzenesulfonyl)-glycine amide (2.22 g) was dissolved in THF, and to the solution triphenylphosphine (1.55 g) was added. DEAD (1.03 g) was slowly added to the mixture at room temperature, and the resultant mixture was stirred overnight at room temperature under an argon atmosphere. After the reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue. The mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate) to obtain the title compound.

reactant | N-(2-Hydroxyethyl)-N-[[2-(3,4,5-trimethoxy-phenyl)pyridin-4-yl]methyl]-Nα-(2-nitrobenzenesulfonyl)-glycine amide | 2.22 g | OCCN(C(CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C25H28N4O9S
reactant | triphenylphosphine | 1.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.03 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-nitrobenzenesulfonyl)-3-oxo-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC(N(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)=O | C25H26N4O8S
